US04440929
1-Bromo-5-methyl-4-oxo-7-trifluoromethyl-4,5-dihydroimidazo[1,5-a]quinoxaline 3-carboxylic acid ethyl ester
To a solution of 5-methyl-4-oxo-7-trifluoromethyl-4,5-dihydroimidazo[1,5-a]quinoxaline 3-carboxylic acid ethyl ester (3.9 g) in carbon tetrachloride (250 ml) was added N-bromosuccinimide (20 g). The mixture was stirred vigorously and was refluxed for 18 hours. After removal of solvent under water aspirator vacuum the residue was chromatographed via a short silica gel dry column (chloroform as eluant). The product was isolated out as an off-white solid (1.9 g, 39% yield). Recrystallized from acetonitrile, m.p. 205°-207° C.

reactant | 5-methyl-4-oxo-7-trifluoromethyl-4,5-dihydroimidazo[1,5-a]quinoxaline 3-carboxylic acid ethyl ester | 3.9 g | C(C)OC(=O)C=1N=CN2C1C(N(C1=CC(=CC=C21)C(F)(F)F)C)=O | C15H12F3N3O3
reactant | N-bromosuccinimide | 20 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 250 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-Bromo-5-methyl-4-oxo-7-trifluoromethyl-4,5-dihydroimidazo[1,5-a]quinoxaline 3-carboxylic acid ethyl ester | 1.9 g, 39% yield | C(C)OC(=O)C=1N=C(N2C1C(N(C1=CC(=CC=C21)C(F)(F)F)C)=O)Br | C15H11BrF3N3O3
